US07605222B2
90/10 3/4 ClPA 80/20 BP/BPA PEI (ODA) (090503, 5 L-5)
4ClPA (30.5328 g, comprising 29.5435 grams (g) of 4ClPA, 0.7908 g of 3ClPA, 0.0916 g of PA), 3ClPA (265.1010 g, comprising 3.9765 g of 4ClPA, 260.3292 g of 3ClPA, 0.0265 g of PA), and PA (4.6506 g) were weighed out and charged a 5-liter (L) oil-jacketed reactor at room temperature together with oxydianiline (ODA, 163.5955 g). This combination of reactants was calculated to give 423.9661 g of the isomeric bischlorophthalimides and 15.6962 g of the isomeric PA-ClPA bisimides (4 mol % chain stopper based on ODA). The reactor was swept with nitrogen and 2245 mL of o-DCB was added to produce a mixture containing 15% solids. The mixture was then heated slowly to 180° C. while stirring. Water generated upon heating was removed by azeotropic distillation. The course of the reaction was followed by HPLC. The reaction was judged to be complete when less than 0.3% ClPA remained and no ODA was detectable. o-DCB was distilled throughout the reaction. The product mixture was considered suitable for use in a subsequent polymerization reaction when the distillate was shown by Karl-Fischer titration to contain less than 10 ppm of water. A mixture of 44.0348 g (0.1617 mol) of bisphenol A disodium salt and 148.9144 g (0.6469 mole) of 4,4′-biphenol disodium salt was then added followed by o-DCB. The reaction mixture was heated and stirred. o-DCB was distilled from the reaction mixture until the distillate contained less than 10 ppm of water and the final polymer would have 15% solids concentration based on the final weight of polymer anticipated. Hexaethylguanidinium chloride (HEGCl) in o-DCB 23.4 mL (20% wt solution; 2 mole %, relative to moles of salt mixture) was added and the polymerization reaction initiated. The polymerization reaction mixture was sampled for molecular weight analysis by GPC every 0.5 hour. When the target molecular weight of 60,000 grams per mole (Mw=60,000 and Mn=21420) had been reached, the reaction was quenched with phosphoric acid, cooled, diluted with veratrole and o-DCB to 10% solids. The polymer was isolated and purified as described in the general methods sections. The product polymer was extruded and molded into test specimens for Notched Izod testing. Molecular weight analysis by GPC on the test specimens revealed that the molecular weight (Mw) had dropped to 53,000 grams per mole as a result of the intervening processing steps. Notched Izod (NI) measurements were performed with a 2 lb hammer at room temperature. An average NI value of 2.7 foot pounds per inch (ft lb/in), and a maximum NI value of 3.2 ft lb/in were observed. The standard deviation for the measurements was 0.43 ft lb/in.

reactant | Water | O | H2O
reactant | bisphenol A disodium salt | 0.1617 mol, 44.0348 g | [Na].[Na].OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O
reactant | 4,4′-biphenol disodium salt | 0.6469 mole, 148.9144 g | [Na].[Na].C1(=CC=C(C=C1)C1=CC=C(C=C1)O)O
solvent | o-DCB | C1=CC(=C(C=C1)Cl)Cl | C6H4Cl2
solvent | o-DCB | 2245 mL | C1=CC(=C(C=C1)Cl)Cl | C6H4Cl2
product | BPA | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
